US07615562B2
[4-(6,7-Difluoro-1H-indol-3-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared as described in Example 215, starting from SEM-protected 6,7-difluoro-1H-indole and (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine, followed by cleavage of the SEM-protecting group with TBAF. Yield: 100 mg (27%).

reactant | 6,7-difluoro-1H-indole | FC1=CC=C2C=CNC2=C1F | C8H5F2N
reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | [4-(6,7-Difluoro-1H-indol-3-yl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | FC1=CC=C2C(=CNC2=C1F)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C21H25F2N5
